datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[N:10]=[C:11]2[N:12](C1)CCC[S:62]2.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2CCC[N+:12]3=[C:11]2[S:62]CCC3)[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.CC12C3(C)C4(C)C5(C)C1(C)[Zr:11]23451678(C)([CH3:10])C2(C)C1(C)C6(C)C7(C)C28C>>C1=CC=C([N:31]=[C:20]([CH3:10])[O-:21])C=C1.CC12C3(C)C4(C)C5(C)C1(C)[Zr+:11]23451678(C)C2(C)C1(C)C6(C)C7(C)C28C 10,11=10,20;20,21=21"
"F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[H:10][CH:11]1[C:12]2=[C:13]([O:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[CH:11]1=[C:12]2[C:13](=[O+:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2 10,11=10,20;12,13=11,12;14=13,14"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[N:10]1CCCC1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N+:10]2(C)CCCC2)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CC[O:72]/[C:11](=[CH:10]/[N+:61]#[N:62])[O-:12].C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CC[O:72][C:11]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[N+:61]#[N:62])=[O:12] 10,11=10,20;12=11,12"
"C1=CC=C([C-:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[S:81](C2=CC=CC=C2)(=[O:82])=[O:92])C=C1.CN1CC[C:20](=[O:21])CC1>>CN1CC[C:20]([C:10](C2=CC=CC=C2)([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[S:81](C2=CC=CC=C2)(=[O:82])=[O:92])([O-:21])CC1 10=20;20,21=21"
"F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1.[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C:20]([CH:10]([N+:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20;12=11,12"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.C[N:82]1[C:71](=[O:72])[C-:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2([I+:61]C3=CC=CC=C3)[C:71](=[O:72])[N:82](C)[C:83](=[O:84])[N:102](C)[C:91]2=[O:92])[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCCC2)C=C1.CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2>>CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([CH:10](C1=CC=CC=C1)[CH:11]=[N+:12]1CCCC1)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20;12=11,12"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11]=[CH2:10].F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11][CH2:10][C:20]1(F)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C1=C[C:14](=[N+:15]([O-:16])[O-:67])[CH:13]=[CH:12][C:11]1=[O:10].Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl>>Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20]([O:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:67])C=C2)([O-:21])[C:41](Cl)=[C:42]1Cl 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"CN1CC[C:20](=[O:21])CC1.[CH:10]1=[CH:11][CH:12]=[CH:13][O:14]1>>CN1CC[C:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[O+:14]2)([O-:21])CC1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C1=CC=C([S:61]([C:10](=[C:11]=[N-:12])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>Cl[C:20]1([C:10]([C:11]#[N:12])([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>Cl[C:20]1([H:10])[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]\[CH2:62][Si:63](C)(C)C.C1CC[C:21](=[O:20])C1>>C[CH:10]([CH+:11][CH2:62][Si:63](C)(C)C)[O:20][C-:21]1CCCC1 10,11=10,20;20,21=21"
